US07399778B2
To 5-chloro-N-{2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide (57.0 mg, 0.121 mmol) in CH2Cl2 (3 mL) at −78° C. was added a solution of boron tribromide (1 M in CH2Cl2, 0.40 mL, 0.40 mmol) dropwise. The reaction mixture was warmed to room temperature gradually over several hours and allowed to stir overnight. Water (10 mL) was added slowly to the mixture. It was then extracted with EtOAc (3×20 mL), dried (Na2SO4) and concentrated. Column chromatography (EtOAc/hex, 3:7) provided 40 mg (72%) of 5-chloro-N-{2-ethyl-1-[1-(4-hydroxybenzyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide as a white solid (mp=90-92° C.).

reactant | 5-chloro-N-{2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide | 0.121 mmol, 57.0 mg | ClC1=CC=C(S1)S(=O)(=O)NC(C(CC)CC)C1=CC=NN1CC1=CC=C(C=C1)OC | C21H26ClN3O3S2
reactant | boron tribromide | 0.40 mmol, 1 M, 0.40 mL | B(Br)(Br)Br | BBr3
reactant | Water | 10 mL | O | H2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-{2-ethyl-1-[1-(4-hydroxybenzyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide | 40 mg, 72% | ClC1=CC=C(S1)S(=O)(=O)NC(C(CC)CC)C1=CC=NN1CC1=CC=C(C=C1)O | C20H24ClN3O3S2
